simulator lang=spectre
global 0

ahdl_include "./dut/gain_trim_controller.va"

Vclk (clk 0) vsource type=pulse val0=0 val1=0.9 delay=7n rise=100p fall=100p width=6n period=20n
Vrst (rst 0) vsource type=pwl wave=[0 0.9 22n 0.9 22.2n 0 660n 0]
Vmeas (meas 0) vsource type=pwl wave=[0 0.2 252n 0.2 252.2n 0.46 302n 0.46 302.2n 0.7 660n 0.7]
Vtarget (target 0) vsource dc=0.45
XDUT (clk rst meas target gain_ctrl) gain_trim_controller

tran tran stop=660n maxstep=200p
save clk rst meas target gain_ctrl
